Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Malfunctioning G Tube
 
Major Surgical or Invasive Procedure:
Gastrojejunostomy Placement

 
History of Present Illness:
**As obtained from records since patient is non-verbal**
___ yo M retired otolaryngol___ with history of end-stage 
Alzheimer's disease, aspiration, MRSA pneumonia, is s/p trach 
and PEG and presents from ___ with non-functioning 
PEG tube.
.
In the ED, vitals at presentation were T 97.5, BP 144/76, HR 88, 
RR 18. thoracic surgery evaluated patient in ED and recommended 
___ conversion of G tube to G-J tube. Patient admitted for this 
indication.

 
Past Medical History:
Dementia
Aspiration pneumonia, ? recurrent aspiration 
Esophageal stricture ? s/p 3 dilations at ___  
Hiatal hernia  
Hypertension  
s/p aortic valve replacement (bovine)
Hip fracture s/p repair  
H pylori gastritis  
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
VS: T 96.2, BP 172/100, HR 82, RR 20, O2Sat 96% 5L
GEN: Patient awake and in NAD, arms in mitt restraints
HEENT: NC/AT, oral mucosa dry with thick secretions, oropharynx 
benign
NECK: Trach in place with copious secretions
PULM: Coarse breath sounds anteriorly
CARD: Heart sounds largely obscurred by coarse breath sounds, 
but no M/R/G appreciated
ABD: G-tube in place with no exudates or erythema surrounding
EXT: BLE thin with no edema
SKIN: No rashes
NEURO: Non-verbal, does not track eyes to voice, unable to 
comply with exam

 
Pertinent Results:
___ 12:39PM   WBC-9.6 RBC-3.58* HGB-9.6* HCT-29.8* MCV-83 
MCH-26.9* MCHC-32.2 RDW-16.9*
___ 12:39PM   NEUTS-81.2* LYMPHS-13.0* MONOS-3.7 EOS-1.9 
BASOS-0.2
___ 12:39PM   PLT COUNT-317
___ 12:39PM   ___ PTT-31.6 ___
___ 12:39PM   GLUCOSE-93 UREA N-42* CREAT-1.2 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-99 TOTAL CO2-30 ANION GAP-13
.

 
Brief Hospital Course:
The patient is a ___ M with history of end-stage Alzheimer's 
disease, aspiration, MRSA pneumonia, s/p trach and PEG admitted 
from ___ with non-functioning PEG tube.
.
The patient was evaluated by Thoracic surgery in the ED with 
recommendation for placement of a gastrojejunostomy tube. He was 
evaluated by Interventional Radiology and G-J tube placement was 
performed. He tolerated the procedure without difficulty and was 
discharged back to ___. No changes to medications were made 
during his hospitalization.
 

 
Medications on Admission:
1) Acetylcysteine 100 mg inhalation twice daily
2) Bisacodyl suppository 10 mg daily
3) Docusate 100 mg twice daily per g tube
4) Enoxaparin 30 mg daily subcutaneously
5) Ergocalciferol oral drops ___ units once per week (___)
6) Magnesium hydroxide 30 mL once daily per g tube
7) Omeprazole 20 mg daiily per g tube
8) Acetaminophen 650 mg every 6 hours per g tube
9) Albuterol neb every six hours
10) Ipratropium neb every six hours

 
Discharge Medications:
1. Acetylcysteine 20 % (200 mg/mL) Solution Sig: One (1) ML 
Miscellaneous BID (2 times a day).  
2. Bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
HS (at bedtime).  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day.  
4. Enoxaparin 30 mg/0.3 mL Syringe Sig: One (1)  Subcutaneous 
once a day.  
5. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
6. Acetaminophen 650 mg Tablet Sig: One (1) Tablet PO every six 
(6) hours.  
7. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours).  
8. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours).  
9. Ergocalciferol (Vitamin D2) 50,000 unit Capsule Sig: One (1) 
Capsule PO once a week.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
1. Gastrostomy Tube Malfunction s/p Gastrojejunostomy Placement

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted with a malfunctioning feeding tube. You were 
evaluated by Thoracic surgery with recommendation for placement 
of a gastrojejunostomy tube by interventional radiology. You 
underwent the procedure without complication and are now being 
discharged back to your extended care facility. 
.
Please take all medicines as prescribed. No changes have been 
made to your medications. 
 
Followup Instructions:
___